US04845100
34.5 Grams of 6-carboxycarbostyril and 31 ml of triethylamine were dissolved in 350 ml of DMF (dimethyl sulfoxide), and to this solution was added dropwise a solution containing 28 ml of isobutyl chloroformate and 14 ml of DMF at room temperature under stirring. After stirred at room for 1 hour, 21 ml of DMF solution containing 46.7 g of geranylpiperazine was added dropwise thereto, and the whole mixture was stirred at room temperature for 10 hours. The reaction mixture was poured in an aqueous solution saturated with sodium bicarbonate, then extracted with chloroform. The chloroform layer was washed with water, an aqueous solution saturated with sodium chloride in this order, then dried with anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure, the residue thus obtained was crystallized by adding diethyl ether, and the crystals were collected by filtration. The crystals were dissolved in ethanol and was converted into hydrochloride by adding concentrated hydrochloric acid. The crude crystals obtained were recrystallized from ethanol-water to obtain 32 g of 6-(4-geranyl-1-piperazinylcarbonyl)carbostyril hydrochloride monohydrate. Colorless needle-like crystals. Melting point: 265°-266° C. (dec.).

reactant | 6-carboxycarbostyril | C(=O)(O)C=1C=C2C=CC(NC2=CC1)=O | C10H7NO3
reactant | isobutyl chloroformate | 28 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | geranylpiperazine | 46.7 g | C(\C=C(/C)\CCC=C(C)C)N1CCNCC1 | C14H26N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 350 ml | CS(=O)C | C2H6OS
solvent | DMF | 21 ml | CS(=O)C | C2H6OS
solvent | DMF | 14 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 31 ml | C(C)N(CC)CC | C6H15N
product | 6-(4-geranyl-1-piperazinylcarbonyl)carbostyril hydrochloride monohydrate | 32 g | O.Cl.C(\C=C(/C)\CCC=C(C)C)N1CCN(CC1)C(=O)C=1C=C2C=CC(NC2=CC1)=O | InChI=1S/C24H31N3O2.ClH.H2O/c1-18(2)5-4-6-19(3)11-12-26-13-15-27(16-14-26)24(29)21-7-9-22-20(17-21)8-10-23(28)25-22;;/h5,7-11,17H,4,6,12-16H2,1-3H3,(H,25,28);1H;1H2/b19-11+;;
